US04409150
Cis-3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropane carboxylic acid (22 g, 0.105 M) was added to a solution of an inorganic base in water (50 ml). Toluene (100 ml), tetra-n-butylammonium bromide (1.6 g, 5 mole % based on the cyclopropane carboxylic acid) and alpha-cyano-3-phenoxybenzyl p-toluenesulphonate (37.9 g, 0.1 M) were added to the stirred mixture which was then heated at 40°-45° C. for 24 hours. The reaction mixture was then treated as in Example 1 to yield cis-alpha-cyano-3-phenoxybenzyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate as a pale amber oil containing less than 1% trans-isomers.

reactant | Cis-3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropane carboxylic acid | 0.105 M, 22 g | ClC(=C[C@H]1C([C@H]1C(=O)O)(C)C)Cl | C8H10Cl2O2
reactant | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | cyclopropane carboxylic acid | C1(CC1)C(=O)O | C4H6O2
reactant | alpha-cyano-3-phenoxybenzyl p-toluenesulphonate | 0.1 M, 37.9 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C21H17NO4S
solvent | water | 50 ml | O | H2O
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | cis-alpha-cyano-3-phenoxybenzyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=C[C@H]1C([C@H]1C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)(C)C)Cl | C22H19Cl2NO3
